US07265104B2
To a solution of N-isopropylbenzylamine (40 mL, 240 mmol) in CHCl3 (300 mL) was added Et3N (36.8 mL). The reaction was cooled to 0° C. and bromoacetyl bromide (21.8 mL, 251 mmol) was added. The mixture was stirred at room temperature for 24 hours and was diluted with CH2Cl2. The organic solution was washed consecutively with 5% aqueous HCl (1×) and aqueous NaHCO3 (1×). The organic solution was dried (Na2SO4), filtered and concentrated. The residue was dissolved in 40% EtOAc in hexanes and was filtered through a silica gel pad to provide 52.2 g of N-benzyl-2-bromo-N-isopropyl-acetamide. 1H NMR (CD2Cl2) δ 7.20-7.40 (m, 5H), 4.53 (d, 2H), 4.22 (m) and 4.74 (m, total 1H), 4.01 (s, 1H), 3.72 (s, 1H), 1.20 (d, 3H), 1.12 (d, 3H).

reactant | N-isopropylbenzylamine | 240 mmol, 40 mL | C(C)(C)NCC1=CC=CC=C1 | C10H15N
reactant | Et3N | 36.8 mL | CCN(CC)CC | C6H15N
reactant | bromoacetyl bromide | 251 mmol, 21.8 mL | BrCC(=O)Br | C2H2Br2O
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-benzyl-2-bromo-N-isopropyl-acetamide | 52.2 g | C(C1=CC=CC=C1)N(C(CBr)=O)C(C)C | C12H16BrNO
